US06270533B1
Synthesis of 1,3-bis[3-(2,5-diaminophenoxy)propyl]-3H-imidazol-1-ium monochloride tetrahydrochloride monohydrate
Starting with 23.5 g (0.0454 mol) of 1,3-bis [3-(2-acetylamino-5-aminophenoxy)propyl]-3H-imidazol-1-ium chloride synthesized above in the previous step, 15.0 g of white crystals melting with decomposition at 210-215° C. (Kofler) were obtained, the 1H NMR of which was in accordance and the elemental analysis of which, calculated for C21H33N6O2Cl5.H2O, was:

reactant | 1,3-bis [3-(2-acetylamino-5-aminophenoxy)propyl]-3H-imidazol-1-ium chloride | 0.0454 mol, 23.5 g | [Cl-].C(C)(=O)NC1=C(OCCC[N+]2=CN(C=C2)CCCOC2=C(C=CC(=C2)N)NC(C)=O)C=C(C=C1)N
solvent | H2O | O | H2O
product | 1,3-bis[3-(2,5-diaminophenoxy)propyl]-3H-imidazol-1-ium monochloride tetrahydrochloride monohydrate | O.Cl.Cl.Cl.Cl.[Cl-].NC1=C(OCCC[N+]2=CN(C=C2)CCCOC2=C(C=CC(=C2)N)N)C=C(C=C1)N | InChI=1S/C21H29N6O2.5ClH.H2O/c22-16-3-5-18(24)20(13-16)28-11-1-7-26-9-10-27(15-26)8-2-12-29-21-14-17(23)4-6-19(21)25;;;;;;/h3-6,9-10,13-15H,1-2,7-8,11-12,22-25H2;5*1H;1H2/q+1;;;;;;/p-1
